US05075330
To a solution of 2-[(2,6-dichlorophenyl) amino]benzoic acid (25 g, 89 mmol) [J. S. Kaltenbronn et al, Arzneim-Forsch/Drug Res. 33(1),4a, 621-627 (1983)] and dimethylformamide (6.8 g, 93 mmol) in dry tetrahydrofuran (500 ml) is added oxalyl chloride (17 ml, 196 mmol) dropwise with stirring under an atmosphere of dry nitrogen at 0° C. The ice bath is removed and the reaction mixture is stirred without cooling for 15 minutes. The reaction mixture is poured into methanol (1500 ml). The solvent is evaporated and the residue is partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic layer is dried (MgSO4) and evaporated. Recrystallization of the residue from methanol provides pure 2-[(2,6-dichlorophenyl) amino]benzoic acid, methyl ester (21.9 g, 83%); mp 100°-103° C.

reactant | 2-[(2,6-dichlorophenyl) amino]benzoic acid | 89 mmol, 25 g | ClC1=C(C(=CC=C1)Cl)NC1=C(C(=O)O)C=CC=C1 | C13H9Cl2NO2
reactant | dimethylformamide | 93 mmol, 6.8 g | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 196 mmol, 17 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-[(2,6-dichlorophenyl) amino]benzoic acid, methyl ester | 21.9 g, 83% | ClC1=C(C(=CC=C1)Cl)NC1=C(C(=O)OC)C=CC=C1 | C14H11Cl2NO2
